US07635698B2
Step 6. 4-(4-Chloro-benzoyl)-1-[1-(4-chloro-benzoyl)-4-hydroxy-pyrrolidin-3-yl]-piperazin-2-one
To a solution of 1-[1-(4-Chloro-benzoyl)-4-hydroxy-pyrrolidin-3-yl]-piperazin-2-one (50 mg, 0.15 mmol) in CH2Cl2 (1 mL) at 0° C., was added DIPEA (27 uL, 0.154 mmol) and 4-Chloro-benzoyl chloride (20 uL, 0.154 mmol). The mixture was stirred at RT for 4 h. The organic phase was washed with Sat. NaHCO3, dried over Na2SO4, and concentrated. The residue was purified by column chromatography (Ethyl acetate:Methanol:Et3N:10.1:0.1) to give the desired product (36 mg, 50% yield) as a white solid. MS: (ESI), M/Z, 462 (M+1). Retention time: 2.25 min (FA-polar).

reactant | 1-[1-(4-Chloro-benzoyl)-4-hydroxy-pyrrolidin-3-yl]-piperazin-2-one | 0.15 mmol, 50 mg | ClC1=CC=C(C(=O)N2CC(C(C2)O)N2C(CNCC2)=O)C=C1 | C15H18ClN3O3
reactant | DIPEA | 0.154 mmol, 27 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-Chloro-benzoyl chloride | 0.154 mmol, 20 uL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Chloro-benzoyl)-1-[1-(4-chloro-benzoyl)-4-hydroxy-pyrrolidin-3-yl]-piperazin-2-one | 36 mg, 50% yield | ClC1=CC=C(C(=O)N2CC(N(CC2)C2CN(CC2O)C(C2=CC=C(C=C2)Cl)=O)=O)C=C1 | C22H21Cl2N3O4
